US04509970
A solution of P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinic acid (500 mg, 1.22 mmol) and thionyl chloride (4 ml) is heated under reflux for about 1.5 hours. The reaction mixture is then concentrated to dryness to give P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinic chloride. To a solution of the phosphinic chloride and methylene chloride (10 ml) is added slowly a solution of ethyl 2-hydroxyiminopropionate (320 mg, 2 eq.) and methylene chloride (5 ml) containing triethylamine (0.2 ml, 1.2 eq.). The resulting mixture is stirred at RT for 2 hours. The reaction is then worked up in methylene chloride, washed, dried and evaporated to dryness to give an oily product. The oily product is purified by preparative thin layer chromatography (prep. TLC) in silica gel (50% ethyl acetate/hexane) to yield ethyl 2-[P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinyloxyimino]propionate.

reactant | P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinic acid | 1.22 mmol, 500 mg | C(C)P(O)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C15H12ClF3NO5P
reactant | thionyl chloride | 4 ml | S(=O)(Cl)Cl | Cl2OS
product | P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinic chloride | C(C)P(=O)(C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-])Cl | C15H11Cl2F3NO4P
